US04956366
A solution of 36 ml of thionyl chloride in 30 ml of dichloromethane was added dropwise, at 0° C., to a solution of 3 g of 4-hydroxymethyl-6-morpholinopyrimidine in 30 ml of dichloromethane. The reaction solution was allowed to reach room temperature and was concentrated in vacuo. Addition of diethyl ether resulted in precipitation of 3.2 g of 4-chloromethyl-6-morpholinopyrimidine hydrochloride (melting point 139° C. [decomposition]).

reactant | thionyl chloride | 36 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxymethyl-6-morpholinopyrimidine | 3 g | OCC1=NC=NC(=C1)N1CCOCC1 | C9H13N3O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-chloromethyl-6-morpholinopyrimidine hydrochloride | 3.2 g | Cl.ClCC1=NC=NC(=C1)N1CCOCC1 | InChI=1S/C9H12ClN3O.ClH/c10-6-8-5-9(12-7-11-8)13-1-3-14-4-2-13;/h5,7H,1-4,6H2;1H
